* This is a parametrized testbench for your pixel circuit array

* You should at least test your circuit with:
*	- current of 50 pA and exposure time 30 ms
*	- current of 750 pA and exposure time 2 ms

* Instructions
* Connect EXPOSE, ERASE, NRE_R1 and NRE_R2 at the right place
* Run a transient simulation with length 60 ms
* Make sure outputs of pixel circuits to ADC are called OUT1 and OUT2
* Make plots of output voltages to ADC (here called OUT1 and OUT2)
* The voltage across internal capacitor (any pixel) is also of interest (here called OUT_SAMPLED1)
* You should also plot the control signals EXPOSE, NRE_R1, NRE_R2 and ERASE

.param Ipd_1 	  = 750p 				  ! Photodiode current, range [50 pA, 750 pA]
.param VDD 		  = 1.8 				  ! Supply voltage
.param EXPOSURETIME = 2m 				  ! Exposure time, range [2 ms, 30 ms]

.param TRF        = {EXPOSURETIME/100} 		  ! Risetime and falltime of EXPOSURE and ERASE signals
.param PW         = {EXPOSURETIME} 			  ! Pulsewidth of EXPOSURE and ERASE signals
.param PERIOD     = {EXPOSURETIME*10} 	        ! Period for testbench sources
.param FS = 1k;                   			  ! Sampling clock frequency 
.param CLK_PERIOD = {1/FS} 				  ! Sampling clock period
.param EXPOSE_DLY = {CLK_PERIOD} 			  ! Delay for EXPOSE signal
.param NRE_R1_DLY = {2*CLK_PERIOD + EXPOSURETIME} ! Delay for NRE_R1 signal
.param NRE_R2_DLY = {4*CLK_PERIOD + EXPOSURETIME} ! Delay for NRE_R2 signal
.param ERASE_DLY  = {6*CLK_PERIOD + EXPOSURETIME} ! Delay for ERASE signal

VDD 1 0 dc VDD
VEXPOSE EXPOSE 0 dc 0 pulse(0 VDD EXPOSE_DLY TRF TRF EXPOSURETIME PERIOD)
VERASE  ERASE  0 dc 0 pulse(0 VDD ERASE_DLY  TRF TRF CLK_PERIOD PERIOD)
VNRE_R1 NRE_R1 0 dc 0 pulse(VDD 0 NRE_R1_DLY TRF TRF CLK_PERIOD PERIOD)
VNRE_R2 NRE_R2 0 dc 0 pulse(VDD 0 NRE_R2_DLY TRF TRF CLK_PERIOD PERIOD)

.plot V(OUT1) V(OUT2) 					  ! signals going to ADC
.plot V(EXPOSE) V(NRE_R1) V(NRE_R2) V(ERASE)
.plot V(OUT_SAMPLED1)
